US08633186B2
2-(2-Cyclopropylethoxy)-6-nitrobenzonitrile
Prepared as in Example 187c from 2-cyclopropylethanol and 2,6-dinitrobenzonitrile in 85% yield as a yellow oil. 1H NMR (400 MHz, DMSO-d6) δ 0.15-0.20 (m, 2H), 0.43-0.47 (m, 2H), 0.84-0.89 (m, 1H), 1.69 (q, J=6.8 Hz, 2H), 4.31 (t, J=6.4 Hz, 2H), 7.73-7.76 (m, 1H), 7.86-7.93 (m, 2H). MS 233 (MH+).

reactant | 2-cyclopropylethanol | C1(CC1)CCO | C5H10O
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(2-Cyclopropylethoxy)-6-nitrobenzonitrile | 85% yield | C1(CC1)CCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C12H12N2O3
